US04638067
0.75 g (2.7 mmole) of 9,10-difluoro-2,3-dihydro-3-methyl-7-oxo-7H-pyrido[1,2,3-de]-1,4-benzoxazine-6-carboxylic acid, 40 ml acetonitrile and 1.03 g (8.00 mmole) of N-ethyl-3-pyrrolidinemethanamine were refluxed overnight. The reaction mixture was cooled in an ice bath and then filtered. The precipitate was washed with ethanol/ether (4:1), and then with ether until dry to give 0.86 g of 10-[3-[(ethylamino)-methyl]-1-pyrrolidinyl]-9-fluoro-2,3-dihydro-3-ethyl-7-oxo-7H-pyrido[1,2,3-de]-1,4-benzoxazine-6-carboxylic acid, mp 221°-224° C.

reactant | 9,10-difluoro-2,3-dihydro-3-methyl-7-oxo-7H-pyrido[1,2,3-de]-1,4-benzoxazine-6-carboxylic acid | 2.7 mmole, 0.75 g | FC=1C(=C2C=3N(C(CO2)C)C=C(C(C3C1)=O)C(=O)O)F | C13H9F2NO4
reactant | N-ethyl-3-pyrrolidinemethanamine | 8.00 mmole, 1.03 g | C(C)NCC1CNCC1 | C7H16N2
reactant | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 10-[3-[(ethylamino)-methyl]-1-pyrrolidinyl]-9-fluoro-2,3-dihydro-3-ethyl-7-oxo-7H-pyrido[1,2,3-de]-1,4-benzoxazine-6-carboxylic acid | 0.86 g | C(C)NCC1CN(CC1)C=1C(=CC2=C3N(C(COC31)CC)C=C(C2=O)C(=O)O)F | C21H26FN3O4
